US04698352
In 20 ml of benzene was dissolved 1.0 g of methyl 6-(4-chlorophenyl)-1-(4-fluorophenyl)-4-oxo-1,4,5,6-tetrahydronicotinate, and to the resulting solution was added a mixed solution of 0.7 g of 2,3-dichloro-5,6-dicyano-p-benzoquinone and 5 ml of benzene at 80° C., after which they were reacted at the same temperature for 30 minutes. After completion of the reaction, the solvent was removed from the reaction mixture by distillation under reduced pressure, and the residue was suspended in 30 ml of chloroform and 30 ml of water This suspension was adjusted to a pH of 7.5 with sodium hydrogencarbonate, and the organic layer was then separated and washed successively with 30 ml of water and 30 ml of a saturated aqueous solution of sodium chloride, and then dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 0.85 g of methyl 6-(4-chlorophenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinate having a melting point of 250°-254° C.

reactant | methyl 6-(4-chlorophenyl)-1-(4-fluorophenyl)-4-oxo-1,4,5,6-tetrahydronicotinate | 1.0 g | ClC1=CC=C(C=C1)C1N(C=C(C(=O)OC)C(C1)=O)C1=CC=C(C=C1)F | C19H15ClFNO3
reactant | 2,3-dichloro-5,6-dicyano-p-benzoquinone | 0.7 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | methyl 6-(4-chlorophenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinate | 0.85 g | ClC1=CC=C(C=C1)C=1N(C=C(C(=O)OC)C(C1)=O)C1=CC=C(C=C1)F | C19H13ClFNO3
